US07598423B2
Stir a mixture of 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (2 g, 10.3 mmol), triethylamine (1.6 mL 11.3 mmol), and dichloromethane (40 mL) at room temperature. Add dimethylthiocarbamoyl chloride (1.27 g, 10.3 mmol) and stir at room temperature overnight. Wash the mixture with 1M hydrochloric acid (25 mL), dry over magnesium sulfate, filter and concentrate. Purify the residue via silica chromatography eluting with hexanes to 7:3 hexanes:ethyl acetate to afford dimethyl-thiocarbamic acid O-(4-acetyl-3-hydroxy-2-propyl-phenyl) ester (1.2 g, 41%) as a light yellow solid. Stir the yellow solid in tetradecane (10 mL) at 250° C. for an hour and purify by silica chromatography eluting with hexanes to 6:4 hexanes:ethyl acetate to give the title compound (1.08 g, 90%) as a white solid. LCMS (m/z) 280 M−1.

reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 10.3 mmol, 2 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | triethylamine | 11.3 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylthiocarbamoyl chloride | 10.3 mmol, 1.27 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | dimethyl-thiocarbamic acid O-(4-acetyl-3-hydroxy-2-propyl-phenyl) ester | 1.2 g, 41% | C(C)(=O)C1=C(C(=C(C=C1)OC(N(C)C)=S)CCC)O | C14H19NO3S
